US07872000B2
Crude 5,6,7,8,9,10-Hexahydrocycloocta[d]pyrimidin-2(3H)-one was heated in phosphorus (III) oxychloride (50 mL) for 1.75 h. The solvent was removed under vacuum and the residue was treated with ice water and 1M aqueous potassium carbonate solution, the aqueous layer was extracted with a mixture of diethyl ether and ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to give 2-chloro-5,6,7,8,9,10-hexahydrocycloocta[d]pyrimidine as a yellow solid, 1.5 g; 1H NMR (CDCl3, 300 MHz) 8.18 (s, 1H), 2.82 (m, 2H), 2.66 (m, 2H), 1.74 (m, 2H), 1.61 (m, 2H), 1.34 (m, 4H) ppm; 13C NMR (CDCl3, 75 MHz) 173.25, 158.66 (2C), 132.74, 34.28, 32.03, 30.20, 28.57, 26.02, 25.90; MS (ES) 197/199 (M+H).

reactant | 5,6,7,8,9,10-Hexahydrocycloocta[d]pyrimidin-2(3H)-one | N=1C(NC=C2C1CCCCCC2)=O | C10H14N2O
reactant | phosphorus (III) oxychloride | 50 mL | O(Cl)Cl.[P+3]
product | 2-chloro-5,6,7,8,9,10-hexahydrocycloocta[d]pyrimidine | ClC=1N=CC2=C(N1)CCCCCC2 | C10H13ClN2
